US07253286B2
N-(4-((6-Cyano-7-((1-methyl-4-piperidyl)methoxy]-4-quinolyl)oxy)-2-fluorophenyl)-N′-cyclopropylurea
After suspending 320 mg of N-(4-((6-cyano-7-(4-piperidylmethoxy)-4-quinolyl)oxy)-2-fluorophenyl)-N′-cyclopropylurea in 20 ml of tetrahydrofuran, there were added 1 ml of formaldehyde (37% aqueous solution), 80 mg of acetic acid and 280 mg of sodium triacetoxyborohydride while stirring at room temperature. After stirring for 20 minutes, a 2N aqueous sodium hydroxide solution and ethyl acetate were added for extraction. The extract was passed through a glass filter coated with NH type silica gel, and the silica gel was thoroughly washed with an ethyl acetate:methanol=20:1 mixed solvent. The organic solvents were combined and distilled off under reduced pressure. Ethyl acetate was added to the residue, and the mixture was filtered to obtain 130 mg of a light yellow solid.

reactant | N-(4-((6-cyano-7-(4-piperidylmethoxy)-4-quinolyl)oxy)-2-fluorophenyl)-N′-cyclopropylurea | 320 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCC1CCNCC1)OC1=CC(=C(C=C1)NC(=O)NC1CC1)F | C26H26FN5O3
reactant | formaldehyde | 1 ml | C=O | CH2O
reactant | sodium triacetoxyborohydride | 280 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 80 mg | C(C)(=O)O | C2H4O2
product | N-(4-((6-Cyano-7-((1-methyl-4-piperidyl)methoxy]-4-quinolyl)oxy)-2-fluorophenyl)-N′-cyclopropylurea | 130 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCC1CCN(CC1)C)OC1=CC(=C(C=C1)NC(=O)NC1CC1)F | C27H28FN5O3
